US08703784B2
5-(3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one (49.78 mg, 0.44 mmol) in DMF (2 mL) was treated with EDCI (129.47 mg, 0.678 mmol) and HOBt (45.6 mg, 0.339 mmol). Then substrate 5-(3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one (122 mg, 0.21 mmol) followed by DIEA (0.29 mL, 1.69 mmol) was added. After 30 min, the reaction mixture was treated with water (0.4 mL) and DMSO-MeCN (3:1, 3 mL). Pure compound 5-((1R,5S)-9-(1H-1,2,4-triazole-3-carbonyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one was isolated by preparative HPLC. HPLC-MS tR=4.35 min (UV254 nm). Mass calculated for formula C30H27N9O3 561.2; observed MH+ (LCMS) 561.98 (m/z).

reactant | 5-(3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one | 0.44 mmol, 49.78 mg | C12COCC(CC(C1)C1=NC=3N(C4=C1C(CCN4)=O)N=CC3C=3C=NC(=CC3)C3=CC=CC=C3)N2 | C27H26N6O2
reactant | EDCI | 0.678 mmol, 129.47 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.339 mmol, 45.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-(3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one | 0.21 mmol, 122 mg | C12COCC(CC(C1)C1=NC=3N(C4=C1C(CCN4)=O)N=CC3C=3C=NC(=CC3)C3=CC=CC=C3)N2 | C27H26N6O2
reactant | DIEA | 1.69 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMSO MeCN | 3 mL | CS(=O)C.CC#N
solvent | water | 0.4 mL | O | H2O
product | 5-((1R,5S)-9-(1H-1,2,4-triazole-3-carbonyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one | N1N=C(N=C1)C(=O)N1[C@H]2COC[C@@H]1CC(C2)C2=NC=1N(C3=C2C(CCN3)=O)N=CC1C=1C=NC(=CC1)C1=CC=CC=C1 | C30H27N9O3
